US07557213B2
Experimental conditions analogous to those described for Step 6 of Example 60 with 200 mg (0.593 mmol) of 1-(6-Methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl amide, 5.2 mL (1.30 mmol, 0.25 M in tetrahydrofuran) of 5-methyl-2-pyridylmagnesium bromide, and 2.6 mL of tetrahydrofuran. The crude product was purified by flash column chromatography using a gradient of 20-100% ethyl acetate in hexane and further purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 77.6 mg of 3-(5-Methyl-pyridine-2-carbonyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one. LC-MSD, m/z for C23H19N3O2 [M+H]: 370.15 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 0.91 min.

reactant | 1-(6-Methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl amide | 0.593 mmol, 200 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C)C | C19H19N3O3
reactant | 5-methyl-2-pyridylmagnesium bromide | 1.30 mmol, 0.25 M, 5.2 mL | CC=1C=CC(=NC1)[Mg]Br
solvent | tetrahydrofuran | 2.6 mL | O1CCCC1 | C4H8O
product | 3-(5-Methyl-pyridine-2-carbonyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | 77.6 mg | CC=1C=CC(=NC1)C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C | C23H19N3O2
